US04448785
Into a dry 4-neck-round bottomed flask equipped with nitrogen inlet, addition funnel, therometer, mechanical stirrer and heating means, under nitrogen, are cautiously (to avoid foaming), charged 229 g. of oleic acid (99% pure, m.p. 4°; b.p. 286°/100 mmHg), 263 ml of toluene and 109 ml. of oxalyl chloride (b.p. 63°-64°), at a rate so as to keep the (internal) reaction temperature between 25°-30°, over a period of about 15 minutes. After addition is complete the funnel is washed with an additional 25 ml. toluene. The reaction mixture is stirred 25°-30° for about one-half hour, and then at about 50°-55° for 1 hour. The toluene is then distilled off (initially at 35°-40°/63 mm vapor pressure; then at 30°-25°/26 mm for 1.5 hours) to obtain oleyl chloride, which is promptly used for the following Step B.

reactant | oleic acid | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | toluene | 263 ml | C1(=CC=CC=C1)C | C7H8
product | oleyl chloride | C(CCCCCCC\C=C/CCCCCCCC)Cl | C18H35Cl
